US08471005B2
2-Methylsulfanyl-7-pyridin-2-yl-pyrrolo[2,1-f][1,2,4]triazine (0.173 g, 0.714 mmol) was dissolved in Methanol (5.00 mL) and Sodium Tungstate Dihydrate (19.0 mg, 0.0576 mmol), Acetic acid (0.338 mL, 5.94 mmol) and 50% Hydrogen Peroxide (0.150 mL, 2.64 mmol) were added. The reaction mixture was then stirred and heated at 65° C. overnight. More 50% Hydrogen Peroxide (0.1 mL) was added and the reaction continued stirring. Once the reaction was complete, 5 mL of 10% Na2S2O3 and 2 mL 50% sat. NaHCO3 were added and the reaction was let cool to room temperature followed by refrigeration. The precipitate was then filtered and placed on the high vac to afford 2-Methanesulfonyl-7-pyridin-2-yl-pyrrolo[2,1-f][1,2,4]triazine.

reactant | 2-Methylsulfanyl-7-pyridin-2-yl-pyrrolo[2,1-f][1,2,4]triazine | 0.714 mmol, 0.173 g | CSC1=NN2C(C=N1)=CC=C2C2=NC=CC=C2 | C12H10N4S
reactant | Acetic acid | 5.94 mmol, 0.338 mL | C(C)(=O)O | C2H4O2
reactant | Hydrogen Peroxide | 2.64 mmol, 0.150 mL | OO | H2O2
reactant | Hydrogen Peroxide | 0.1 mL | OO | H2O2
reactant | Na2S2O3 | 5 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | Methanol | 5.00 mL | CO | CH4O
catalyst | Sodium Tungstate Dihydrate | 0.0576 mmol, 19.0 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 2-Methanesulfonyl-7-pyridin-2-yl-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)(=O)C1=NN2C(C=N1)=CC=C2C2=NC=CC=C2 | C12H10N4O2S
